US09290511B2
To a stirred solution of methyl 4-(3-hydroxy-8-azabicyclo[3.2.1]octan-8-yl)-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate (0.940 g, 2.38 mmol) in DCM (100 mL) at room temperature was added Dess-Martin Periodinane (1.310 g, 3.094 mmol) in one portion and the reaction left to stir overnight. The reaction was filtered and the filtrate washed with saturated sodium bicarbonate and brine, the organic layer dried over sodium sulphate, filtered and concentrated under reduced pressure to afford methyl 4-(3-oxo-8-azabicyclo[3.2.1]octan-8-yl)-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate which was used without further purification (0.935 g, 100%). LCMS: Rt=4.46, 394 (M+1).

reactant | methyl 4-(3-hydroxy-8-azabicyclo[3.2.1]octan-8-yl)-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate | 2.38 mmol, 0.940 g | OC1CC2CCC(C1)N2C=2C1=C(N=CN2)SC(=C1C1=CC=CC=C1)C(=O)OC | C21H21N3O3S
reactant | Dess-Martin Periodinane | 3.094 mmol, 1.310 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(3-oxo-8-azabicyclo[3.2.1]octan-8-yl)-5-phenyl-thieno[2,3-d]pyrimidine-6-carboxylate | O=C1CC2CCC(C1)N2C=2C1=C(N=CN2)SC(=C1C1=CC=CC=C1)C(=O)OC | C21H19N3O3S
